Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Chlorpromazine / Latex
 
Attending: ___.
 
Chief Complaint:
R lower extremity swelling
 
Major Surgical or Invasive Procedure:
Thoracentesis - ___

 
History of Present Illness:
___ yo M w/ h/o stage IV gallbladder ca diagnosed in ___ most 
recently treated with FOLFIRI (cycle 4 on ___ who presented 
to outpatient clinic earlier today with right lower extremity 
swelling. Subsequent ___ of RLE showed DVT. Because patient is 
planned for IP intervention for mucus plug/increasing pleural 
effusion on CT torso from ___, decision was made to admit 
patient for heparin gtt rather than send out with lovenox.
.
Also of note, he has noted increased early satiety with vomiting 
of black bile and food intermittently. He has lost 10 lbs over 2 
weeks.
.
Finally, he had restaging CT done on ___. This showed there 
was worsening pleural effusion and LLL collapse due to mucous 
plug.
.
On the floor, patient has no complaints other than nausea. No 
CP/SOB. Notes swelling in RLE started yesterday. Last BM 25 
minutes before I came in- does not report abdominal pain or 
constipation.
 
Past Medical History:
ONCOLOGIC HISTORY
Gallbladder Ca - diagnosed in ___ on cholecystectomy w path 
demonstrating adenocarcinoma poorly differentiated, w liver 
invasion, extracapsular extension, and positive LN, s/p ERCP 
___ with stenting of the CBD and CHD, s/p C6 gem/cis, XRT L 
rib lesion, s/p FLOX, s/p C3 FOLFIRI (last dose ___.
.
MEDICAL HISTORY
Hypercholesterolemia
Bilateral knee replacements in ___
CCY and gallbladder fosa dissection ___.
 
Social History:
___
Family History:
Mother who died at age ___ of Alzheimer's disease.  His father 
died at age ___, also of Alzheimer's disease.  His grandparents 
died at a young age of unknown causes.
 
Physical Exam:
VS: 96, 120/80, 89, 18, 98RA. Weight 152 lbs.
GEN: AOx3, NAD
HEENT: MMM. sclera anicteric
Cards: RR S1/S2 normal. no murmurs/gallops/rubs.
Pulm: CTAB
Abd: BS+, firm abdomen, NT, no rebound/guarding, no ___ 
sign
Extremities: RLE>LLE
Neuro: CNs II-XII grossly intact. gait WNL.
 
Pertinent Results:
Labs on Admission:
___ 09:00AM BLOOD WBC-5.4 RBC-3.24* Hgb-10.9* Hct-32.1* 
MCV-99* MCH-33.5* MCHC-33.8 RDW-14.5 Plt ___
___ 06:01AM BLOOD ___ PTT-50.2* ___
___ 06:01AM BLOOD Glucose-108* UreaN-25* Creat-0.5 Na-136 
K-2.9* Cl-101 HCO3-30 AnGap-8
___ 06:01AM BLOOD ALT-19 AST-22 LD(LDH)-442* AlkPhos-358* 
TotBili-0.9
___ 06:01AM BLOOD Albumin-3.0* Calcium-8.1* Phos-2.4* 
Mg-1.7

___: 
1. Acute deep venous thrombosis involving the right common 
femoral, superficial femoral, and profunda femoral veins, with 
patency of the popliteal and tibial veins.
 2. No left lower extremity deep venous thrombosis, either acute 
or chronic.

CXR: There remains a moderate sized left sided pleural effusion. 
A right sided port-a-cath ends in the upper SVC. A smaller right 
sided pleural effusion is present. There is bibasilar 
atelectasis but otherwise the lungs are clear. The 
cardiomediastinal borders remain stable. There is no 
pneumothorax. Sclerosis of the left 2nd rib is noted, consistent 
with known osseous metastatic disease. IMPRESSION: Moderate left 
pleural effusion persists with a smaller right pleural effusion. 
Diffuse bony metastases are better appreciated on CT.

Pleural Fluid cytology:
POSITIVE FOR MALIGNANT CELLS,  Consistent with adenocarcinoma.
 
Brief Hospital Course:
Mr. ___ is a ___ yo M w/ h/o stage IV gallbladder ca 
diagnosed in ___ most recently treated with FOLFIRI on ___ 
who presents with new DVT.
.
#. RLE DVT: Acute deep venous thrombosis involving the right 
common femoral, superficial femoral, and profunda femoral veins, 
with patency of the popliteal and tibial veins. Started heparin 
gtt without bolus for treatment. Following IP intervention, 
patient was transitioned to lovenox.
.
#. New pleural effusion, collapse of the left lower lobe: 
Patient underwent thoracentesis by IP.  Cytology demonstrated 
the presence of malignant cells.
.
#. Nausea/Vomiting: Likely secondary to diffuse carcinomatosis 
on most recent CT torso.  Symptomatic treatment with 
zofran/reglan, lorazepam if needed for refractory nausea.
.
#. Stage IV gallbladder carcinoma: Status-post ___ cycle FOLFIRI 
on ___, continued progression of disease per most recent 
imaging. Per Dr. ___ notes, patient is 
generally declining from
reduced oral intake invariably related to disease progression.  
Rising ___  are consistent with disease progression. 
 
Medications on Admission:
BACLOFEN - 10 mg Tablet - 1 Tablet(s) by mouth every 4 hours ;
may gradually decrease frequency if hiccups resolve or if there
is bothersome dizziness/drowsiness
LORAZEPAM - 0.5 mg Tablet - One - Two Tablet(s) by mouth Every
___ hours as needed for nausea
METOCLOPRAMIDE - 10 mg Tablet - One Tablet(s) by mouth Three
times per day.
OMEPRAZOLE - 40 mg Capsule, Delayed Release(E.C.) - One
Capsule(s) by mouth Daily
ONDANSETRON - 4 mg Tablet, Rapid Dissolve - One Tablet(s) by
mouth Three times per day as needed for nausea
Medications - OTC
ASPIRIN - (Prescribed by Other Provider) - 81 mg Tablet,
Chewable - 1 Tablet(s) by mouth once a day
 
Discharge Medications:
1. enoxaparin 100 mg/mL Syringe Sig: One (1) injection 
Subcutaneous once a day for 90 days.
Disp:*90 syringes* Refills:*0*
2. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for nausea: please don't drive, drink alcohol, or 
operate heavy machinery with this medication.  
3. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO three 
times a day.  
4. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
5. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO three times a day as needed for nausea.  
6. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
7. baclofen 10 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for hiccups.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
-Deep Venous Thrombosis
-Pleural Effusion

Secondary Diagnosis:
-Stage IV Gallbadder Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
It was a pleasure taking care of you at ___ 
___. You were admitted to the hospital with a blood 
clot in your right leg. You were started on a blood thinning 
medication during your inpatient stay. You also underwent a 
procedure to remove fluid from your chest.

Please START the following medication after discharge:
ENOXAPARIN 100 mg daily (injection)

Should you experience any concerning symptoms after returning 
home, please call Dr. ___ or return to the 
emergency room.
 
Followup Instructions:
___